US07977344B2
8-Bromo-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To an ice cooled stirring solution of 2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (6.53 g) in chloroform (75 ml), was added N-bromosuccinimide (4.02 g). The reaction mixture was allowed to warm to room temperature and after 16 h treated with water and extracted twice with DCM. The combined extracts were washed with dilute sodium metabisulphite then dilute brine, dried by passing through a hydrophobic frit and evaporated to give the title compound as an orange foam, yield 7.96 gm.

reactant | 2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 6.53 g | C1(CC1)CCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H21N5O2
reactant | N-bromosuccinimide | 4.02 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | BrC=1N(C2=NC(=NC(=C2N1)N)OCCC1CC1)C1OCCCC1 | C15H20BrN5O2
